US07981874B2
Tert-butyl 4-[cyano(diethoxyphosphoryl)methyl]benzoate.
Diethyl cyanomethylphosphonate (0.35 ml, 2.164 mmol), tert-butyl 4-bromobenzoate (0.5096 g, 1.982 mmol), bis(tri-t-butylphosphine)palladium (0.051 g, 0.099 mmol), potassium phosphate, tribasic (1.2381 g, 5.83 mmol) and toluene (6 ml) were combined in a flask. Nitrogen was bubbled through the reaction for approximately two minutes to deoxygenate the reaction. The reaction was allowed to heat at 100° C. until complete (3-24 h). The reaction was filtered over celite. The resulting material was partially purified by column chromatography on silica gel. The partially purified material was further purified by HPLC. 1H NMR (CDCl3, 600 MHz) δ 8.01 (d, J=6 Hz, 2H), 7.52 (d, J=6.9 Hz, 2H), 4.30 (d, JP-H=26.4 Hz, 1H), 4.19-4.01 (m, 4H), 1.59 (s, 9H), 1.32 (m, 3H), 1.26 (m, 3H). MS: cal'd 354 (MH+), exp 354 (MH+).

reactant | Diethyl cyanomethylphosphonate | 2.164 mmol, 0.35 ml | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | tert-butyl 4-bromobenzoate | 1.982 mmol, 0.5096 g | BrC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H13BrO2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | bis(tri-t-butylphosphine)palladium | 0.099 mmol, 0.051 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | Tert-butyl 4-[cyano(diethoxyphosphoryl)methyl]benzoate | C(#N)C(C1=CC=C(C(=O)OC(C)(C)C)C=C1)P(=O)(OCC)OCC | C17H24NO5P
